US09144557B2
Preparation of 4-(hydrazinecarbonyl)-N-(2-(4-methoxyphenyl)-1H-benzo[d]imidazol-6-yl)benzamide:
In a 15-mL sealed tube, methyl 4-((2-(4-methoxyphenyl)-1H-benzo[d]imidazol-6-yl)carbamoyl)benzoate (28 mg, 0.07 mmole) was dissolved in 2 mL absolute ethanol and hydrazine (1 mL) was added. The reaction mixture was heated in an oil bath at 70° C. for overnight. In the morning the reaction mixture was evaporated to dryness to provide the title compound (28 mg, 99%, >95% pure by 1H-NMR). This compound was used for next step without any further purification.

reactant | methyl 4-((2-(4-methoxyphenyl)-1H-benzo[d]imidazol-6-yl)carbamoyl)benzoate | 0.07 mmole, 28 mg | COC1=CC=C(C=C1)C1=NC2=C(N1)C=C(C=C2)NC(=O)C2=CC=C(C(=O)OC)C=C2 | C23H19N3O4
reactant | hydrazine | 1 mL | NN | H4N2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(hydrazinecarbonyl)-N-(2-(4-methoxyphenyl)-1H-benzo[d]imidazol-6-yl)benzamide | 28 mg | N(N)C(=O)C1=CC=C(C(=O)NC=2C=CC3=C(NC(=N3)C3=CC=C(C=C3)OC)C2)C=C1 | C22H19N5O3
